US05589477
Preparation of 4-chloro-2-(4-methoxyphenyl)-6-methylpyrimidine
6.5 g of 4-hydroxy-2-(4-methoxyphenyl)-6-methylpyrimidine prepared in reference example 1 (3) was added to 30 ml of phosphorus oxychloride, and the mixture was refluxed with stirring for 30 minutes. The reaction mixture was cooled and poured into diluted ammonia solution and the precipitated crystals were filtered off. The crystals were dissolved in chloroform. After the chloroform layer was washed twice with water, it was dried with anhydrous magnesium sulfate and was evaporated in vacuo. The residue was crystallized with n-hexane and filtered off. Whereby 5.1 g of crystals was obtained. Melting point is 80° to 81° C.

reactant | 4-hydroxy-2-(4-methoxyphenyl)-6-methylpyrimidine | 6.5 g | OC1=NC(=NC(=C1)C)C1=CC=C(C=C1)OC | C12H12N2O2
reactant | ammonia | N | H3N
reactant | phosphorus oxychloride | 30 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-chloro-2-(4-methoxyphenyl)-6-methylpyrimidine | 5.1 g | ClC1=NC(=NC(=C1)C)C1=CC=C(C=C1)OC | C12H11ClN2O
